US07199147B2
Under a nitrogen atmosphere, 1M-hydrochloric acid-diethyl ether (350 μl, 0.341 mmol) was added dropwise to a solution of cis-3-[(4-isopropoxy-1H-indazol-5-yl)oxy]cyclohexanamine (84.3 mg, 0.284 mmol) in isopropanol (2 ml) at room temperature. After 1 hour, the mixture thus obtained was concentrated under reduced pressure and the resulting residue was crystallized from ethyl acetate, followed by filtration under reduced pressure, and then drying. The solid thus obtained was washed with hexane by repulping to obtain cis-3-[(4-isopropoxy-1H-indazol-5-yl)oxy]cyclohexanamine hydrochloride (70.1 mg, 74%).

reactant | hydrochloric acid diethyl ether | 0.341 mmol, 350 μl | Cl.C(C)OCC
reactant | cis-3-[(4-isopropoxy-1H-indazol-5-yl)oxy]cyclohexanamine | 0.284 mmol, 84.3 mg | C(C)(C)OC1=C2C=NNC2=CC=C1O[C@H]1C[C@H](CCC1)N | C16H23N3O2
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | cis-3-[(4-isopropoxy-1H-indazol-5-yl)oxy]cyclohexanamine hydrochloride | 70.1 mg, 74% | Cl.C(C)(C)OC1=C2C=NNC2=CC=C1O[C@H]1C[C@H](CCC1)N | InChI=1S/C16H23N3O2.ClH/c1-10(2)20-16-13-9-18-19-14(13)6-7-15(16)21-12-5-3-4-11(17)8-12;/h6-7,9-12H,3-5,8,17H2,1-2H3,(H,18,19);1H/t11-,12+;/m0./s1
